US08487108B2
To a solution of 2-(trimethylsilyl)ethyl (S)-2-amino-3-(tetrahydro-2H-pyran-3-yl)propyl(methyl)carbamate (300 mg, 0.95 mmol) and CDI (154 mg, 0.95 mmol) in anhydrous CH2Cl2 (20 mL), DIEA (612 mg, 4.7 mmol) was added with ice bath. After addition, the mixture was stirred for 1 h at 0° C., then was added to a solution of {2-[(3-fluoro-phenyl)-piperidin-3-yl-methoxy]-ethyl}-carbamic acid methyl ester (245 mg, 0.79 mmol) in anhydrous CH2Cl2 (25 mL). The reaction mixture was allowed to warm to rt and stirred overnight. After the reaction was completed, the solvent was removed in vacuo. The product was purified by preparative TLC to afford methyl 2-((R)-(3-fluorophenyl)((3R)-1-((S)-1-(N-Methyl-2-(trimethylsilyl)ethoxycarbonylamino)-3-(tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamoyl)piperidin-3-yl)methoxy)ethylcarbamate (258 mg, 50% yield).

reactant | 2-(trimethylsilyl)ethyl (S)-2-amino-3-(tetrahydro-2H-pyran-3-yl)propyl(methyl)carbamate | 0.95 mmol, 300 mg | N[C@H](CN(C(OCC[Si](C)(C)C)=O)C)CC1COCCC1 | C15H32N2O3Si
reactant | CDI | 0.95 mmol, 154 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DIEA | 4.7 mmol, 612 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | {2-[(3-fluoro-phenyl)-piperidin-3-yl-methoxy]-ethyl}-carbamic acid methyl ester | 0.79 mmol, 245 mg | COC(NCCOC(C1CNCCC1)C1=CC(=CC=C1)F)=O | C16H23FN2O3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-((R)-(3-fluorophenyl)((3R)-1-((S)-1-(N-Methyl-2-(trimethylsilyl)ethoxycarbonylamino)-3-(tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamoyl)piperidin-3-yl)methoxy)ethylcarbamate | 258 mg, 50% yield | FC=1C=C(C=CC1)[C@H](OCCNC(OC)=O)[C@H]1CN(CCC1)C(N[C@H](CN(C)C(=O)OCC[Si](C)(C)C)CC1COCCC1)=O | C32H53FN4O7Si
